US08211892B2
4-(5-Bromopyridin-2-yl)-3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester (2 g, 5.12 mmol) is placed in 25 ml of DME. Bis(pinacolato)diboron (1.56 g, 6.15 mmol), potassium acetate (1.51 g, 15.4 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (0.418 g, 0.51 mmol) are added. The reaction medium is heated at reflux for 2 h. After hydrolysis and addition of ethyl acetate, the mixture is filtered through Celite®, the aqueous phase is extracted with ethyl acetate, and the organic phases are combined and then washed with a saturated aqueous sodium chloride solution, dried over MgSO4 and concentrated to dryness. The crude product obtained is chromatographed on silica gel, elution being carried out with a gradient of ethyl acetate in heptane varying from 10% to 30%. 1.75 g of 4-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]-3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester are obtained.

reactant | 4-(5-Bromopyridin-2-yl)-3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester | 5.12 mmol, 2 g | C(C)(C)(C)OC(=O)N1CCN(C2=CC=CC=C12)C1=NC=C(C=C1)Br | C18H20BrN3O2
reactant | Bis(pinacolato)diboron | 6.15 mmol, 1.56 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 15.4 mmol, 1.51 g | C(C)(=O)[O-].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DME | 25 ml | COCCOC | C4H10O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.51 mmol, 0.418 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]-3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester | 1.75 g | C(C)(C)(C)OC(=O)N1CCN(C2=CC=CC=C12)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C24H32BN3O4
